US04258187
A mixture of 12.6 g (0.05 mole) of 2-amino-5-chlorobenzophenone and 6.55 g (0.055 mole) of phenyl isocyanate was heated on a steam-bath for 30 min., and then 250 ml ethanol and 10.43 g (0.15 mole) of hydroxylamine hydrochloride were added and mixture was refluxed for 2 days and then cooled. The solid precipitate that formed was collected on a filter, washed with ethanol, and dried in air to give 9.42 g (69%) of 6-chloro-4-phenyl-2(1H)-quinazolinone 3-oxide as yellow crystals, mp 267°-269°.

reactant | 2-amino-5-chlorobenzophenone | 0.05 mole, 12.6 g | NC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)Cl | C13H10ClNO
reactant | phenyl isocyanate | 0.055 mole, 6.55 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | hydroxylamine hydrochloride | 0.15 mole, 10.43 g | Cl.NO
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 6-chloro-4-phenyl-2(1H)-quinazolinone 3-oxide | 9.42 g, 69% | ClC=1C=C2C(=[N+](C(NC2=CC1)=O)[O-])C1=CC=CC=C1 | C14H9ClN2O2
